Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Cl[C:1]([C:2]([O:3][C:4]([CH3:5])=[O:6])([CH3:7])[CH3:8])=[O:9].[CH3:10][C@H:11]1[CH2:12][N:13]([C:14](=[O:15])[CH2:16][O:17][c:18]2[cH:19][cH:20][c:21]([Cl:22])[cH:23][c:24]2[S:25]([NH2:26])(=[O:27])=[O:28])[C@H:29]([CH3:30])[CH2:31][N:32]1[CH2:33][c:34]1[cH:35][cH:36][c:37]([F:38])[cH:39][cH:40]1>>[C:1]([C:2]([O:3][C:4]([CH3:5])=[O:6])([CH3:7])[CH3:8])(=[O:9])[NH:26][S:25]([c:24]1[c:18]([O:17][CH2:16][C:14]([N:13]2[CH2:12][C@H:11]([CH3:10])[N:32]([CH2:33][c:34]3[cH:35][cH:36][c:37]([F:38])[cH:39][cH:40]3)[CH2:31][C@H:29]2[CH3:30])=[O:15])[cH:19][cH:20][c:21]([Cl:22])[cH:23]1)(=[O:27])=[O:28],[CH3:10][C@H:11]1[CH2:12][N:13]([C:14](=[O:15])[CH2:16][O:17][c:18]2[cH:19][cH:20][c:21]([Cl:22])[cH:23][c:24]2[S:25]([NH2:26])(=[O:27])=[O:28])[C@H:29]([CH3:30])[CH2:31][N:32]1[CH2:33][c:34]1[cH:35][cH:36][c:37]([F:38])[cH:39][cH:40]1.[Cl:101][C:1]([C:2]([O:3][C:4]([CH3:5])=[O:6])([CH3:7])[CH3:8])=[O:9]>>[C:1]([C:2]([O:3][C:4]([CH3:5])=[O:6])([CH3:7])[CH3:8])(=[O:9])[NH:26][S:25]([c:24]1[c:18]([O:17][CH2:16][C:14]([N:13]2[CH2:12][C@H:11]([CH3:10])[N:32]([CH2:33][c:34]3[cH:35][cH:36][c:37]([F:38])[cH:39][cH:40]3)[CH2:31][C@H:29]2[CH3:30])=[O:15])[cH:19][cH:20][c:21]([Cl:22])[cH:23]1)(=[O:27])=[O:28],nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(26, 1), ([1, 9], 9), (9, [9, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[S:1]([CH3:2])(=[O:3])=[O:4].[CH3:5][O:6][C:7](=[O:8])[C@@H:9]1[CH2:10][S:11][c:12]2[c:13]([CH:14]3[CH2:15][CH2:16]3)[c:17]([CH2:18][c:19]3[cH:20][cH:21][cH:22][c:23]4[cH:24][cH:25][cH:26][cH:27][c:28]34)[c:29]([NH2:30])[c:31](=[O:32])[n:33]21>>[S:1]([CH3:2])(=[O:3])(=[O:4])[NH:30][c:29]1[c:17]([CH2:18][c:19]2[cH:20][cH:21][cH:22][c:23]3[cH:24][cH:25][cH:26][cH:27][c:28]23)[c:13]([CH:14]2[CH2:15][CH2:16]2)[c:12]2[n:33]([c:31]1=[O:32])[C@H:9]([C:7]([O:6][CH3:5])=[O:8])[CH2:10][S:11]2,[CH3:5][O:6][C:7](=[O:8])[C@@H:9]1[CH2:10][S:11][c:12]2[c:13]([CH:14]3[CH2:15][CH2:16]3)[c:17]([CH2:18][c:19]3[cH:20][cH:21][cH:22][c:23]4[cH:24][cH:25][cH:26][cH:27][c:28]34)[c:29]([NH2:30])[c:31](=[O:32])[n:33]21.[Cl:101][S:1]([CH3:2])(=[O:3])=[O:4]>>[S:1]([CH3:2])(=[O:3])(=[O:4])[NH:30][c:29]1[c:17]([CH2:18][c:19]2[cH:20][cH:21][cH:22][c:23]3[cH:24][cH:25][cH:26][cH:27][c:28]23)[c:13]([CH:14]2[CH2:15][CH2:16]2)[c:12]2[n:33]([c:31]1=[O:32])[C@H:9]([C:7]([O:6][CH3:5])=[O:8])[CH2:10][S:11]2,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(30, 1), ([1, 3], 3), (3, [3, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[Br:4][CH2:3][CH2:2][CH2:1]Br.[CH3:5][c:6]1[cH:7][cH:8][c:9]([NH:10][C:11](=[O:12])[c:13]2[cH:14][cH:15][cH:16][c:17]([C:18]([CH3:19])([CH3:20])[C:21]#[N:22])[cH:23]2)[cH:24][c:25]1[NH:26][c:27]1[n:28][cH:29][n:30][c:31]2[cH:32][c:33]([OH:34])[cH:35][cH:36][c:37]12>>[CH2:1]([CH2:2][CH2:3][Br:4])[O:34][c:33]1[cH:32][c:31]2[n:30][cH:29][n:28][c:27]([NH:26][c:25]3[c:6]([CH3:5])[cH:7][cH:8][c:9]([NH:10][C:11](=[O:12])[c:13]4[cH:14][cH:15][cH:16][c:17]([C:18]([CH3:19])([CH3:20])[C:21]#[N:22])[cH:23]4)[cH:24]3)[c:37]2[cH:36][cH:35]1,[CH3:5][c:6]1[cH:7][cH:8][c:9]([NH:10][C:11](=[O:12])[c:13]2[cH:14][cH:15][cH:16][c:17]([C:18]([CH3:19])([CH3:20])[C:21]#[N:22])[cH:23]2)[cH:24][c:25]1[NH:26][c:27]1[n:28][cH:29][n:30][c:31]2[cH:32][c:33]([OH:34])[cH:35][cH:36][c:37]12.[Br:101][CH2:1][CH2:2][CH2:3][Br:4].[H-:301].[Na+]>>[CH2:1]([CH2:2][CH2:3][Br:4])[O:34][c:33]1[cH:32][c:31]2[n:30][cH:29][n:28][c:27]([NH:26][c:25]3[c:6]([CH3:5])[cH:7][cH:8][c:9]([NH:10][C:11](=[O:12])[c:13]4[cH:14][cH:15][cH:16][c:17]([C:18]([CH3:19])([CH3:20])[C:21]#[N:22])[cH:23]4)[cH:24]3)[c:37]2[cH:36][cH:35]1,SN2_alcohol(thiol),"[(301, 34.1), ([34.1, 34], 34), (34, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([c:2]1[c:3]([NH2:4])[n:5][cH:6][cH:7][cH:8]1)=[O:9].[CH3:10][c:11]1[cH:12][cH:13][cH:14][cH:15][c:16]1[CH2:17][NH2:18]>>[C:1]([c:2]1[c:3]([NH2:4])[n:5][cH:6][cH:7][cH:8]1)(=[O:9])[NH:18][CH2:17][c:16]1[c:11]([CH3:10])[cH:12][cH:13][cH:14][cH:15]1,[OH:101][C:1]([c:2]1[c:3]([NH2:4])[n:5][cH:6][cH:7][cH:8]1)=[O:9].[CH3:10][c:11]1[cH:12][cH:13][cH:14][cH:15][c:16]1[CH2:17][NH2:18].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([c:2]1[c:3]([NH2:4])[n:5][cH:6][cH:7][cH:8]1)(=[O:9])[NH:18][CH2:17][c:16]1[c:11]([CH3:10])[cH:12][cH:13][cH:14][cH:15]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (18, 1), ([1, 9], 9), (303, 18.1), ([18.1, 18], 18), (9, [9, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
